US07166648B2
5 g of sodium salt of ethyl acetoacetate was mixed with 30 ml of toluene. Over 20 minutes, 5 g of acetic acid chloride was added dropwise, and the mixture was stirred for one hour at room temperature and at 85° C. for 3 hours. The solid was filtered off and washed with diethyl ether. Fractional distillation of the liquid phase yielded ethyl 2-acetyl-3-oxo-butyrate.

reactant | sodium | 5 g | [Na] | Na
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | acetic acid chloride | 5 g | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-acetyl-3-oxo-butyrate | C(C)(=O)C(C(=O)OCC)C(C)=O | C8H12O4
